US08058299B2
2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide hydrochloride (100 mg, 0.204 mmol), triethylamine (57.5 μL, 0.408 mmol) and succinic anhydride (22.4 mg, 0.224 mmol) in 5 mL toluene and 3 mL dimethylsulfoxide were stirred at room temperature. After 3 hrs, an additional 5.5 mg of succinic anhydride was added and stirred for an additional 1 hr. The reaction mixture was diluted with 50 mL ethyl acetate, washed with 500 mL water, dried over magnesium sulfate, filtered and evaporated to dryness under vacuum. The residue was dissolved in acetonitrile and water and lyophilized to yield 4-oxo-4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazin-1-yl)-butyric acid as an amorphous, light yellow solid (83 mg, 78%). ES-MS calcd for C25H23F3N4O5 (m/e) 516.48, obsd 517 (M+H).

reactant | 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide hydrochloride | 0.204 mmol, 100 mg | Cl.N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1
reactant | triethylamine | 0.408 mmol, 57.5 μL | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | 0.224 mmol, 22.4 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | succinic anhydride | 5.5 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-oxo-4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazin-1-yl)-butyric acid | O=C(CCC(=O)O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C25H23F3N4O5
